US05223529
Working in a manner similar to that described in Example 1, but starting with 2-amino-N-benzyl-N-phenylacetamide (1.9 g) and 3-methylphenyl isocyanate (1.1 g), and after recrystallization in acetonitrile, N-benzyl-N-phenyl-2-[3-(3-methylphenyl)ureido]acetamide (2.3 g), m.p. 175° C., is obtained.

reactant | 2-amino-N-benzyl-N-phenylacetamide | 1.9 g | NCC(=O)N(C1=CC=CC=C1)CC1=CC=CC=C1 | C15H16N2O
reactant | 3-methylphenyl isocyanate | 1.1 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-benzyl-N-phenyl-2-[3-(3-methylphenyl)ureido]acetamide | 2.3 g | C(C1=CC=CC=C1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1 | C23H23N3O2
